US04830660
A mixture consisting of 4.2 g of 4-ethoxycarbonyl-1-(4-methylthiazol-2-yl)imidazole-5-thiol, 3.2 g of anhydrous potassium carbonate, 2.2 g of benzyl chloride, 20 ml of dimethylformamide and 100 ml of acetonitrile was stirred at room temperature for 2 hours. After the reaction, solid materials were separated by filtration, and the filtrate was condensed under reduced pressure to obtain crude 5-benzylthio-4-ethoxycarbonyl-1-(4-methylthiazol-2-yl)imidazole as oily product. The resulting oily product was dissolved in 100 ml of chloroform and after addition of 13 g of conc. hydrochloric acid and 30 ml of water, 28 g of a 10% sodium hypochlorite solution was added dropwise to the mixture at -10° C. to -5° C. over 15 minutes. After the reaction mixture was stirred at 0° C. or lower for 20 minutes, an organic layer was separated and an aqueous layer was extracted with chloroform. After the organic layers were combined and washed with water, 60 ml of tetrahydrofuran was added to the organic layer and then 20 ml of a 28% aqueous ammonia was added dropwise under icc-cooling, and the mixture was stirred at room temperature for 1.5 hours. After the reaction mixture was concentrated under reduced pressure, ethyl acetate and water were added thereto, an organic layer was separated and an aqueous layer was extracted with ethyl acetate. The organic layers were combined and dried, and then concentrated under reduced pressure to obtain oily product. The resulting oily product was identified as 5-benzylsulfinyl-4-ethoxycarbonyl-1-(5-chloro-4-methylthiazol-2-yl)imidazole by NMR and MS analyses.

reactant | 4-ethoxycarbonyl-1-(4-methylthiazol-2-yl)imidazole-5-thiol | 4.2 g | C(C)OC(=O)C=1N=CN(C1S)C=1SC=C(N1)C | C10H11N3O2S2
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 2.2 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-benzylthio-4-ethoxycarbonyl-1-(4-methylthiazol-2-yl)imidazole | C(C1=CC=CC=C1)SC1=C(N=CN1C=1SC=C(N1)C)C(=O)OCC | C17H17N3O2S2
